US09315521B2
Quinolin-3-ylmethanol was dissolved dichloromethane (15 mL) at 0° C. under nitrogen. Tribromophosphane (2.15 mL, 22 mmol) was added dropwise. The resulting mixture was stirred at room temperature overnight. The reaction was quenched by addition of 10% NaHCO3 solution (5 mL). After 10 minutes, Na2SO4 (30 g) was added. The solvent was filtered and evaporated to provide 3-(bromomethyl)quinoline, which was used without further purification.

reactant | Quinolin-3-ylmethanol | N1=CC(=CC2=CC=CC=C12)CO | C10H9NO
reactant | Tribromophosphane | 22 mmol, 2.15 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-(bromomethyl)quinoline | BrCC=1C=NC2=CC=CC=C2C1 | C10H8BrN
